US06096874
Preparation of Tamoxifen Azide (TX-N3)
Into a suspension of NaN3 (260 mg, 4 mmol) in 4 ml dry DMF was added 150 mg tamoxifen tosylate (TX-OTs) (0.25 mmol). The reaction mixture was stirred at 90° C. overnight. To terminate the reaction, the vxn mixture was poured into cold water and extracted with ethyl ether (3×50 ml). The organic layers were combined and washed with H2O (2×50 ml). The ether layer was then dried over magnesium sulfate and evaporated. Further purification by flash chromatography (ether/petroleum ether/triethyl amine=5/5/1) yielded pure TX-N3. Yield 50% IR: 2150 cm-1 (Azide).

reactant | NaN3 | 4 mmol, 260 mg | [N-]=[N+]=[N-].[Na+]
reactant | tamoxifen tosylate | 0.25 mmol, 150 mg | CC/C(=C(\C=1C=CC=CC1)/C=2C=CC(=CC2)OCCN(C)C)/C=3C=CC=CC3.S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | water | O | H2O
reactant | Azide | [N-]=[N+]=[N-]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | Tamoxifen Azide | Yield 50% | CC/C(=C(\C=1C=CC=CC1)/C=2C=CC(=CC2)OCCN(C)C)/C=3C=CC=CC3.[N-]=[N+]=[N-] | InChI=1S/C26H29NO.N3/c1-4-25(21-11-7-5-8-12-21)26(22-13-9-6-10-14-22)23-15-17-24(18-16-23)28-20-19-27(2)3;1-3-2/h5-18H,4,19-20H2,1-3H3;/q;-1/b26-25-;
